US05977110
Step 2: Preparation of trans-N-{4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexylguanidine
Trans-N-{4-[2-(4-phenyl-piperazin-1-yl)-ethyl]cyclohexyl-N,N'-dicarbobenzyloxyguanidine (2.77 g, 4.63 mol) was hydrogenolyzed in MeOH (250 mL) under 48 psi hydrogen pressure in the presence of 20% palladium on carbon catalyst (0.25 g). Filtration of the reaction mixture, evaporation of the filtrate, and recrystallization of the residue from isopropanol (i-PrOH)-Et2O yielded 1.39 g (91%) of the product; mp 140-170° C.

reactant | 4-[2-(4-phenyl-piperazin-1-yl)-ethyl]cyclohexyl-N,N'-dicarbobenzyloxyguanidine | 4.63 mol, 2.77 g | C1(=CC=CC=C1)N1CCN(CC1)CCC1CCC(CC1)N(C(=N)NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C35H43N5O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 250 mL | CO | CH4O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 4-[2-(4-phenyl-piperazin-1-yl)-ethyl]-cyclohexylguanidine | 1.39 g, 91% | C1(=CC=CC=C1)N1CCN(CC1)CCC1CCC(CC1)NC(=N)N | C19H31N5
